US04346088
4-[4-Chloro-3-(1-methyl-4-piperazinylsulfonyl)-phenyl]-3-methyl-2-phenylimino-4-thiazoline
Obtained by a procedure analogous to that indicated in Example 2(b), from 4-[4-chloro-3-(1-methyl-4-piperazinylsulfonyl)-phenyl]-3-methyl-2-phenyliminothiazolidin-4-ol, by boiling with glacial acetic acid and subsequently distilling off the solvent. Water is added to the residue and the pH is adjusted to 13 with 2 N NaOH. The crystals are filtered off and recrystallized from isopropanol. Melting point 156°-158° C.

reactant | 4-[4-chloro-3-(1-methyl-4-piperazinylsulfonyl)-phenyl]-3-methyl-2-phenyliminothiazolidin-4-ol | ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC1=CC=CC=C1)C)O)S(=O)(=O)N1CCN(CC1)C | C21H25ClN4O3S2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-[4-Chloro-3-(1-methyl-4-piperazinylsulfonyl)-phenyl]-3-methyl-2-phenylimino-4-thiazoline | ClC1=C(C=C(C=C1)C=1N(C(SC1)=NC1=CC=CC=C1)C)S(=O)(=O)N1CCN(CC1)C | C21H23ClN4O2S2
